US05300639
2-(4-Ethoxyformimidoylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine
2-(4-Ethoxyformimidoylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine dihydrochloride (1.5 g) was neutralized with an aqueous sodium hydrogen carbonate, and extracted with chloroform. The extract was washed with water, dried and distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography on silica gel to give the title compound as a powder (yield 1.1 g, 87%).

reactant | 2-(4-Ethoxyformimidoylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine dihydrochloride | 1.5 g | Cl.Cl.C(C)OC(=N)C1=CC=C(C=C1)C=1SC=2NCCCCC2N1
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | 2-(4-Ethoxyformimidoylphenyl)-5,6,7,8-tetrahydro-4H-thiazolo[5,4-b]azepine | yield 1.1 g, 87% | C(C)OC(=N)C1=CC=C(C=C1)C=1SC=2NCCCCC2N1 | C16H19N3OS
